US07538127B2
i) {5-{(1R)-2-[Bis(phenylmethyl)amino]-1-hydroxyethyl}-2-[(phenylmethyl)oxy]phenyl}formamide
A mixture of {5-[(2R)-2-oxiranyl]-2-[(phenylmethyl)oxy]phenyl}formamide (WO 0276933) (200 mg) and dibenzylamine (0.75 ml) were heated in a microwave oven at 150° for 30 min. The mixture was allowed to cool to 20° and was purified on a silica SPE bond elut cartridge (10 g) using a gradient of 0% to 50% EtOAc in cyclohexane (Gradmaster™). The appropriate fractions were evaporated in vacuo and the residue further purified by mass-directed autopreparative HPLC to give the title compound (123 mg). LCMS RT=2.75 min.

reactant | {5-[(2R)-2-oxiranyl]-2-[(phenylmethyl)oxy]phenyl}formamide | 200 mg | O1[C@@H](C1)C=1C=CC(=C(C1)NC=O)OCC1=CC=CC=C1 | C16H15NO3
reactant | dibenzylamine | 0.75 ml | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
product | {5-{(1R)-2-[Bis(phenylmethyl)amino]-1-hydroxyethyl}-2-[(phenylmethyl)oxy]phenyl}formamide | 123 mg | C1(=CC=CC=C1)CN(C[C@H](O)C=1C=CC(=C(C1)NC=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C30H30N2O3
